US07645789B2
6-Nitro-2,3,4,9-tetrahydro-1H-carbazole (0.100 g, 0.462 mmol) was dissolved in a 40 mL scintillation vial containing a magnetic stir bar and 2 mL of ethanol. Tin(II) chloride dihydrate (1.04 g, 4.62 mmol) was added to the reaction mixture and the resulting suspension was heated at 70° C. for 16 h. The crude reaction mixture was then diluted with 15 mL of a saturated aqueous solution of sodium bicarbonate and extracted three times with an equivalent volume of ethyl acetate. The ethyl acetate extracts were combined, dried over sodium sulfate, and evaporated to dryness to yield 2,3,4,9-tetrahydro-1H-carbazol-6-amine (82 mg, 95%) which was used without further purification.

reactant | 6-Nitro-2,3,4,9-tetrahydro-1H-carbazole | 0.462 mmol, 0.100 g | [N+](=O)([O-])C=1C=C2C=3CCCCC3NC2=CC1 | C12H12N2O2
reactant | ethanol | 2 mL | C(C)O | C2H6O
reactant | Tin(II) chloride dihydrate | 4.62 mmol, 1.04 g | O.O.[Sn](Cl)Cl
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 2,3,4,9-tetrahydro-1H-carbazol-6-amine | 82 mg, 95% | C1CCCC=2C3=CC(=CC=C3NC12)N | C12H14N2
